Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ yo G3P0 at 18+3 who presents to the ED with 
nausea and vomiting. She has an extensive history this pregnancy 
of hyperemesis associated with gastritis, for which she has been 
admitted multiple times. She completed TPN on ___ and PICC was 
d/c'ed at that time. She discontinued all of her medications 
including phenergan, zofran, ativan. She was encouraged to 
continue on the protonix.

This morning she describes abdominal pain, nausea, emesis x 24 
hrs. She had 7 episodes of emesis, none with blood. Her 
abdominal pain is similar to her prior episodes and feels like a 
squeezing sensation. This time she has diarrhea which is new for 
her. It is mild, again no blood. Denies fevers, chills, sweats. 
+AFM, no VB.

In the ED, pt received:
Morphine 5mg x 2
Zofran 4mg x2
 
Past Medical History:
PRENATAL COURSE
*) ___ ___ by LMP (___) c/w 11wk U/S
*) Labs: O-/Ab-,GC/CT-,RPRnr,RI,HbsAg-,HIV-,Hbg electro pending
*) Screening: no ERA, planning QS
ISSUES
*) TSH 0.083 on ___ -> rpt (___) 0.3
*) hx Chlamydia in ___, pt/partner treated, neg TOC (___)
*) hx GERD/gastritis:
- s/p admission ___ and ___ and ___
- ___ neg  
- ___ GI consult
- ___ US: GB sludge, no cholecystitis or gallstones  
- ___ abd/pelvis: no pathology  
- ___ -> c/w severe gastritis; nl biopsies
- home regimen: 
*) psych: panic/anxiety  
- s/p psych c/s (___): rec: ativan TID prn  
- social work following

OBHx:
G3P0
SAB x 2 requiring D&C
Current pregnancy

GynHx:
- denies history of abnormal paps or fibroids
- + Chlamydia (first trimester)

PMH: GERD and gastritis

PSH: D&C x 2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: T 97, HR 86, BP 124/72, RR 16, O2 100% 
GENERAL: Lying in bed, tired
HEART: RRR
RESP: CTAB
ABDOMEN: Soft, mild diffuse tenderness
PELVIC: Deferred
EXTREMITIES: NT, NE

FHR 160s by Doppler
 
Pertinent Results:
___ WBC-11.9 RBC-3.59 Hgb-10.8 Hct-33.7 MCV-94 Plt-345
___ Neuts-76.8 ___ Monos-4.2 Eos-0.4 Baso-0.3

___ Glu-85 BUN-6 Cre-0.5 Na-139 K-3.6 Cl-107 HCO3-23
___ Glu-89 BUN-4 Cre-0.6 Na-139 K-3.8 Cl-109 HCO3-22
___ Glu-110 BUN-4 Cre-0.5 Na-132 K-3.4 Cl-100 HCO3-21
___ Glu-92 BUN-4 Cre-0.6 Na-139 K-3.3 Cl-108 HCO3-23

___ ALT-19 AST-17 AlkPhos-74 TotBili-0.4
___ ALT-24 AST-27 Lipase-27

___ Albumin-3.8 Calcium-9.0 Phos-3.1 Mg-1.6
___ Calcium-8.6 Phos-2.0 Mg-1.7
___ Calcium-8.9 Phos-2.5 Mg-1.3
___ Calcium-8.1 Phos-3.5 Mg-1.9

___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-10 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
 
Brief Hospital Course:
___ y/o ___ admitted at 18w3d with nausea, vomiting, and 
abdominal pain. Her symptoms and presentation were quite 
simialar to her previous admissions during this pregnancy. She 
was admitted for IV hydration, antiemetics, electrolyte 
repletion, and pain control. She was treated with IV protonix, 
Zofran, phenergan, benadryl, and Ativan. Pepcid was added to her 
regimen on HD#3. She received IV Morphine for the epigastric 
pain. She was unable to tolerate a significant amount of po 
intake until hospital day #4. At that time, her pain had 
resolved and she was tolerating po fluids and medication. She 
requesting discharge home. Prior to discharge, she also 
requested medication for depression. States she cries a lot and 
feels she needs something to improve her mood. She was given a 
prescription for Celexa 20mg and she agreed to return to high 
risk clinic on ___ for followup. The importance of continuing 
both protonix and pepcid even if she is feeling well was 
stressed to the patient.
.
Ms ___ had her routine full fetal survey on ___ which was 
normal.
 
Medications on Admission:
protonix
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 18 weeks
abdominal pain
nausea/vomiting
 
Discharge Condition:
stable
 
Discharge Instructions:
Continue taking your medications as needed for nausea. It is 
very important for you to continue taking the Protonix and 
Pepcid, EVEN IF YOU ARE FEELING WELL. Take the Protonix when you 
wake up in the morning and then at dinnertime; then take the 
Pepcid at night before you go to bed.

It is also very important for you to stay hydrated.
 
Followup Instructions:
___